US06696608B1
Synthesis of 2-Octanone Oxime
In a 50 ml round-bottom flask, a mixture of 2-octanone, hydroxylamine hydrochloride in pyridine was stirred, at room temperature under nitrogen blanket, for five days. The reaction mixture was then concentrated under vacuum to remove most of pyridine. The oil was then dissolved in dichloromethane. The product precipitated on standing. The product was obtained as a white solid in 87% yield.

reactant | 2-octanone | CC(CCCCCC)=O | C8H16O
reactant | hydroxylamine hydrochloride | Cl.NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-Octanone Oxime | 87% yield | CC(CCCCCC)=NO | C8H17NO
